US06326369B1
N-[8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl]acetamide
To a mixture of N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]acetamide (700 mg), 2,6-pyridinedicarboxylic acid (857 mg), acetonitrile (7.0 ml), ethyl acetate (7.0 ml), and water (7.0 ml) was dropwise added a solution of CAN (3.75 g) in acetonitrile (3.5 ml) and water (3.5 ml) with cooling with ice. After being stirred for 15 min, the reaction mixture was diluted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate) and then with recrystallization from hexane-ethyl acetate) to yield the entitled compound (495 mg) as crystals.

reactant | N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]acetamide | 700 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCNC(C)=O | C23H37NO5
reactant | 2,6-pyridinedicarboxylic acid | 857 mg | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | CAN | 3.75 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 3.5 ml | C(C)#N | C2H3N
solvent | water | 3.5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 7.0 ml | O | H2O
solvent | ethyl acetate | 7.0 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 7.0 ml | C(C)#N | C2H3N
product | N-[8-(5,6-Dimethoxy-4,7-dioxoindan-2-yl)octyl]acetamide | 495 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCCCCCNC(C)=O)=O | C21H31NO5
